US08877774B2
Step 2; (R)-Quinuclidin-3-yl((3-((4-((3,3-diethoxypropyl)carbamoyl)benzyl)oxy)-phenyl)(phenyl)methyl)carbamate
To a stirred solution of 4-((3-(phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)-methyl)phenoxy)methyl)benzoic acid (0.300 g, 0.57 mmol) in DMF (2.5 mL), was added HATU (0.262 g, 0.69 mmol) and diisopropylethylamine (0.250 mL, 1.43 mmol), and the reaction mixture was stirred at room temperature for 30 minutes. 1-Amino-3,3-diethoxypropane (0.139 mL, 0.86 mmol) was added, and the reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was diluted with ethyl acetate and washed sequentially with saturated sodium hydrogen carbonate and brine (×2). The organic phase was dried wih anhydrous sodium sulfate, and filtered, and the solvent was evaporated at reduced pressure. The crude material was purified by silica gel chromatography eluting with 100% iso-hexane to 100% ethyl acetate in iso-hexane to afford the title compound (0.347 g, 99%), which was used directly in the next step.

reactant | 4-((3-(phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)-methyl)phenoxy)methyl)benzoic acid | 0.57 mmol, 0.300 g | C1(=CC=CC=C1)C(C=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C29H30N2O5
reactant | HATU | 0.69 mmol, 0.262 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.43 mmol, 0.250 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-Amino-3,3-diethoxypropane | 0.86 mmol, 0.139 mL | NCCC(OCC)OCC | C7H17NO2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-Quinuclidin-3-yl((3-((4-((3,3-diethoxypropyl)carbamoyl)benzyl)oxy)-phenyl)(phenyl)methyl)carbamate | 0.347 g, 99% | N12C[C@@H](C(CC1)CC2)OC(NC(C2=CC=CC=C2)C2=CC(=CC=C2)OCC2=CC=C(C=C2)C(NCCC(OCC)OCC)=O)=O | C36H45N3O6
